US08138347B2
c) 4-(4-pyridinyl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline
A mixture of (6-bromo-4-(4-pyridinyl)quinoline (5.0 g, 17.5 mmol), bis(pinacolato)diboron (4.9 g, 19.3 mmole), potassium acetate (5.2 g, 52.6 mmol), and dichloro-[1,1′bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (430 mg, 0.53 mmol) in dioxane (30 mL) was heated at 130° C. for 4 h and cooled to room temperature. The reaction was cooled and filtered through Na2SO4 and Celite onto silica. The mixture was purified by silica gel chromatography eluting with EtOAc/ethanol (0-20% methanol gradient) to give the title compound as a semi-pure solid. (2.14 g, 64%) mix of boronic acid and ester used without further purification.

reactant | 6-bromo-4-(4-pyridinyl)quinoline | 17.5 mmol, 5.0 g | BrC=1C=C2C(=CC=NC2=CC1)C1=CC=NC=C1 | C14H9BrN2
reactant | bis(pinacolato)diboron | 19.3 mmole, 4.9 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 52.6 mmol, 5.2 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro-[1,1′bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct | 0.53 mmol, 430 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 4-(4-pyridinyl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | N1=CC=C(C=C1)C1=CC=NC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C | C20H21BN2O2
